US08097753B2
Using the method of Example 2, 432 g (6 mol) of acrylic acid were first admixed, at from 65 to 80° C. in the presence of 428 g of a 5% strength sodium peroxodisulfate solution (1.5 mol % based on acrylic acid) with 636 g (6 mol) of sodium hypophosphite monohydrate dissolved in 860 g of water. The resultant reaction mixture was then reacted with propylene in the presence of 428 g of a 5% strength sodium peroxodisulfate solution (1.5 mol % based on propylene). Appropriate work-up gave 655 g (61% of theory) of 3-(propylhydroxyphosphinyl)propionic acid as colorless solid; chlorine content: <0.1 ppm.

reactant | acrylic acid | 6 mol, 432 g | C(C=C)(=O)O | C3H4O2
reactant | sodium hypophosphite monohydrate | 6 mol, 636 g | O.[PH2](=O)[O-].[Na+]
reactant | propylene | C=CC | C3H6
solvent | sodium peroxodisulfate | [O-]S(=O)(=O)OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | water | 860 g | O | H2O
product | 3-(propylhydroxyphosphinyl)propionic acid | 655 g, 61% | C(CC)P(=O)(CCC(=O)O)O | C6H13O4P
